US04061761
b. 4'-Chloro-3'-dimethylsulfamoyl-diazoacetophenone
14.1 g of 4-chloro-3-dimethylsulfamoylbenzoyl-chloride were reacted as prescribed in Example 66b) with diazomethane in diethyl ether and the crystalline product was filtered off. Melting point: 136° - 137° C (decomposition).

reactant | 4-chloro-3-dimethylsulfamoylbenzoyl-chloride | 14.1 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N(C)C)(=O)=O | C9H9Cl2NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4'-Chloro-3'-dimethylsulfamoyl-diazoacetophenone | ClC1=C(C=C(C=C1)C(C=[N+]=[N-])=O)S(N(C)C)(=O)=O | C10H10ClN3O3S
